US09085555B2
C. [(S)-1-(3-Chloro-2-fluoro-phenyl)-2-dimethylamino-ethyl]-carbamic acid tert-butyl ester
A solution of methanesulfonic acid (S)-2-tert-butoxycarbonylamino-2-(3-chloro-2-fluoro-phenyl)-ethyl ester (690 mg, 1.88 mmol) in 33% dimethylamine in EtOH (5.6 M, 7.5 mL, 42 mmol) was heated at 80° C. for 2 h in a sealed tube. The reaction mixture was concentrated and the crude material was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:1 to EtOAc) to give a pale yellow oil. TLC, Rf (EtOAc): 0.60; MS (UPLC/MS): 317.3/319.3 [M+H]+; tR (HPLC conditions a): 3.19 min.

reactant | methanesulfonic acid (S)-2-tert-butoxycarbonylamino-2-(3-chloro-2-fluoro-phenyl)-ethyl ester | 1.88 mmol, 690 mg | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C)C1=C(C(=CC=C1)Cl)F | C14H19ClFNO5S
reactant | EtOH | 42 mmol, 5.6 M, 7.5 mL | CCO | C2H6O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | dimethylamine | CNC | C2H7N
product | [(S)-1-(3-Chloro-2-fluoro-phenyl)-2-dimethylamino-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CN(C)C)C1=C(C(=CC=C1)Cl)F)=O | C15H22ClFN2O2
